US09290485B2
To a solution of Methyl 3-chloroquinoline-6-carboxylate (145 mg, 0.654 mmol) in THF (6 ml) Lithiumaluminium hydride 1M in THF (0.654 ml, 0.654 mmol) was added slowly at rt. The reaction was stirred for 2 h at rt. Sodium sulfate decahydrate was added to the reaction mixture to destroy the excess of Lithiumaluminium hydride. After 1 h, methanol was added and the fine suspension was filtered off. The filtrate was concentrated under vacuum, to afford crude (3-chloroquinolin-6-yl)methanol. MS (Method V) [M+H]+=194.2.

reactant | Methyl 3-chloroquinoline-6-carboxylate | 0.654 mmol, 145 mg | ClC=1C=NC2=CC=C(C=C2C1)C(=O)OC | C11H8ClNO2
reactant | Sodium sulfate decahydrate | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 1M, 6 ml | C1CCOC1 | C4H8O
solvent | THF | 0.654 mmol, 0.654 ml | C1CCOC1 | C4H8O
product | (3-chloroquinolin-6-yl)methanol | ClC=1C=NC2=CC=C(C=C2C1)CO | C10H8ClNO
